US08309546B2
Step 3: N-Methyl-5-[6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine
1,4-Dioxane (40 ml), water (20 ml), and sodium carbonate (2 g, 19 mmol) were added to N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (1.45 g, 6.18 mmol) and 2-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purine (2.0 g, 6.18 mmol) and the atmosphere in the reaction vessel was substituted with nitrogen. Tetrakis triphenylphosphine palladium (0.36 g, 0.31 mmol) was added, then the atmosphere in the reaction vessel was substituted with nitrogen again, and the resulting mixture was heated to reflux for 3 hours. The reaction mixture was partitioned with ethyl acetate and water, the organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. Methylene chloride-ether was added to the residue and the insoluble matter was collected by filtration and dried to give the title compound (1.0 g, 41%) as a white solid.

reactant | 1,4-Dioxane | 40 ml | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 19 mmol, 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 6.18 mmol, 1.45 g | CNC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C11H18BN3O2
reactant | 2-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purine | 6.18 mmol, 2.0 g | ClC1=NC(=C2N=CN(C2=N1)CC1COCC1)N1CCOCC1 | C14H18ClN5O2
solvent | water | 20 ml | O | H2O
product | N-Methyl-5-[6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine | 1.0 g, 41% | CNC1=NC=C(C=N1)C1=NC(=C2N=CN(C2=N1)CC1COCC1)N1CCOCC1 | C19H24N8O2
